US08633220B2
A solution of methyl 6-formyl-1-naphthoate (36 mg, 0.17 mmol) in THE (1.7 mL) was cooled to 0° C. and treated with n-pentylmagnesium bromide (0.1 mL of a 2.0 M solution in Et2O, 0.2 mmol). The cooling bath was removed and after stirring at room temperature for 1 h the reaction was quenched with 1 N aqueous HCl, diluted with water (10 mL) and extracted with EtOAc (3×10 The combined organic phase was dried (Na2SO4), filtered and concentrated in vacuo. The resulting residue was purified on 12 g silica gel (100% hexanes→40% EtOAc/hexanes, gradient) to afford 34 mg (71%) of methyl 6-(1-hydroxyhexyl)-1-naphthoate.

reactant | methyl 6-formyl-1-naphthoate | 0.17 mmol, 36 mg | C(=O)C=1C=C2C=CC=C(C2=CC1)C(=O)OC | C13H10O3
reactant | n-pentylmagnesium bromide | C(CCCC)[Mg]Br
solvent | Et2O | CCOCC | C4H10O
product | methyl 6-(1-hydroxyhexyl)-1-naphthoate | 34 mg, 71% | OC(CCCCC)C=1C=C2C=CC=C(C2=CC1)C(=O)OC | C18H22O3
